US07960552B2
To a solution of 3-[3-(2,6-dichlorophenyl)-5-(1-methylethyl) -4-isoxazolyl]propanal (220 mg, 0.705 mmol) in methanol (7 mL) at 0° C. was added sodium borohydride (67 mg, 1.8 mmol). The solution was stirred at 0° C. for approximately 20 minutes and was then poured into aqueous ammonium chloride. The mixture was extracted twice with ether. The combined organic layers were dried over magnesium sulfate and concentrated to afford 3-[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]-1-propanol (204 mg, 92%). 1H-NMR (400 MHz, CDCl3) δ 7.42-7.28 (m, 3H), 3.53 (t, J=6 Hz, 2H), 3.21 (septet, J=7 Hz, 1H), 3.35 (t, J=8 Hz, 2H), 1.57-1.50 (m, 2H), 1.38 (d, J=7 Hz, 6H).

reactant | 3-[3-(2,6-dichlorophenyl)-5-(1-methylethyl) -4-isoxazolyl]propanal | 0.705 mmol, 220 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CCC=O)C(C)C | C15H15Cl2NO2
reactant | sodium borohydride | 1.8 mmol, 67 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 7 mL | CO | CH4O
product | 3-[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]-1-propanol | 204 mg, 92% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CCCO)C(C)C | C15H17Cl2NO2
